US07700637B2
A mixture of the title B compound, 2-(4-mercaptobenzene-sulfonylamino)-benzoic acid (200 mg, 0.65 mmol), 4-chloromethyl-5-methyl-2-phenyl-oxazole (134 mg, 0.65 mmol) and cesium carbonate (1.05 g, 3.24 mmol) in DMF is stirred at RT for 3 h. The mixture is then partitioned between EtOAc and 1 N aqueous HCl. The organic phase is dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue is chromatographed on silica gel using 15% EtOAc in hexane (containing 0.5% formic acid) as the eluent to afford 2-[4-(5-methyl-2-phenyl-oxazol-4-ylmethylsulfanyl)-benzenesulfonyl-amino]-benzoic acid as a white foam: m.p. 182-184° C.; ESI-MS 481 [M+1]+.

reactant | 2-(4-mercaptobenzene-sulfonylamino)-benzoic acid | 0.65 mmol, 200 mg | SC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=CC=C1 | C13H11NO4S2
reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | 0.65 mmol, 134 mg | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | cesium carbonate | 3.24 mmol, 1.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[4-(5-methyl-2-phenyl-oxazol-4-ylmethylsulfanyl)-benzenesulfonyl-amino]-benzoic acid | CC1=C(N=C(O1)C1=CC=CC=C1)CSC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=CC=C1 | C24H20N2O5S2
